US08138217B2
3-(4-Pyrrolidin-1-ylmethyl-benzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide (37)
Pyrrolidine (1.81 mL, 21.8 mmol), was added to a suspension of ethyl 5-{[(1-methyl-1-phenylethyl)amino]carbonyl}-3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-1-carboxylate (3.80 mg, 7.25 mmol) in 100 mL of dry ethanol. And the resulting mixture was stirred at 79° C. for 1 hour. Afterward the volatiles were removed by evaporation under reduced pressure and the residue was purified by chromatography over silica gel (eluant dichloromethane/methyl alcohol/aqueous ammonia 92:8:01) to give 1.2 g of the title compound.

reactant | Pyrrolidine | 21.8 mmol, 1.81 mL | N1CCCC1 | C4H9N
reactant | ethyl 5-{[(1-methyl-1-phenylethyl)amino]carbonyl}-3-[(4-chloromethyl-benzoyl)amino]-1H-thieno[2,3-c]pyrazole-1-carboxylate | 7.25 mmol, 3.80 mg | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC2=C(N(N=C2NC(C2=CC=C(C=C2)CCl)=O)C(=O)OCC)S1 | C26H25ClN4O4S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(4-Pyrrolidin-1-ylmethyl-benzoylamino)-1H-thieno[2,3-c]pyrazole-5-carboxylic acid (1-methyl-1-phenyl-ethyl)-amide | 1.2 g | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC2=C(NN=C2NC(C2=CC=C(C=C2)CN2CCCC2)=O)S1 | C27H29N5O2S
